Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspareunia and stress urinary incontinence
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomies, 
excision of perineal skin, perineorrpahy, suburethral sling, and 
cystoscopy for symptomatic fibroid uterus

 
History of Present Illness:
Ms. ___ is a ___ year old ___ premenopausal female with 
uterine fibroids, urinary frequency and stress urinary 
incontinence, abnormal uterine bleeding and dyspareunia with 
penetration, with history of cervical dysplasia with LEEP x 2 
and postpartum surgical tubal sterilization.

The patient's most bothersome symptoms are related to her 
urination, with urinary frequency and leaking.  She is under the 
care of Dr. ___ urogynecology.  She plans surgery for 
stress incontinence with Dr. ___ she cannot recall 
the name of the procedure at today's visit.

She reports changes to her menses over the last year.  Menstrual 
flow has increased over last year, now very heavy.  In last 6 
months has started to have postmenstrual spotting lasting up to 
1 week.  Discussed with patient that chart review revealed 
spotting and pelvic pain dating back to ___ she endorsed that 
these have been longstanding issues.  She also reports long 
history of vaginitis and urinary tract symptoms, often with 
associated negative testing.

Reports postcoital spotting over the past year.  Reports pain 
with deep penetration, feels like partner is hitting something 
painful.  Also reports palpating a small vaginal mass on 
cleaning herself.
 
Patient presents today to discuss her uterine fibroids.  She has 
no other gynecologic complaints today.

 
Past Medical History:
-History of gastric polyps with nonspecific lymphoma features, 
now undergoing increased screening, next due ___ (Dr. ___ 
at ___.  Last exam ___ showed 1.5 cm mass in lesser 
curvature of stomach, pathology not definitive, ddx includes 
MALT and gastric wall leiomyoma
-Peptic ulcer disease, NSAID's tolerated
-Cervical dysplasia
-Depression
-Acne

OBSTETRIC HISTORY: ___
SVD x 4
D&C x 4 for termination
 
GYNECOLOGIC HISTORY:  
- Menarche 14, LMP ___
- Reg cycles q28days x 8days increasingly heavy flow in last 
year, with postmenstrual spotting for 1 week for 6 months, 
severe dysmenorrhea, penetrative dyspareunia, postcoital 
spotting
- Pt is sexually active, heterosexual, reports 10 total sexual 
partners throughout life.
- Contraception: tubal sterilization
- STD History: chlamydia, HPV, genital warts, HSV
- no current OB/GYN generalist care

GYN ISSUES:
1.  Urinary incontinence  
2.  Abnormal uterine bleeding (postmenstrual & postcoital  VB)
3.  Fibroid uterus
4.  Vag nodule (1.5cm) on BME-- unclear etiology
5.  H/o cervical dysplasia --> s/p LEEP x ___
6.  H/o multiple STDs (chlamydia, genital warts, herpes, HPV)
7.  PSH: PPTL, LEEP ×2, D&C ×4 
8.  GI workup (DDX: colonic MALT lymphoma vs gastric leiomyoma)
 
HEALTHCARE MAINTENANCE:
- Last PAP (___): NILM, HR-HPV neg.  Reports h/o abnormal 
PAP
in ___, underwent LEEP; normal since.
- Last mammogram (___): normal (birads 1)

SURGICAL HISTORY:  
___ 4 x D&C for termination
___ postpartum BTL colposcopy
___ LEEP
___ colposcopy, ECC
Multiple endoscopies, last ___ year ago, due in ___
Colonoscopy
 
Social History:
___
Family History:
- Family h/o gynecologic cancers: denies
- maternal grandmother with pancreatic and small bowel cancer 
___
- grandfather throat cancer
- mother with high cholesterol
 
Physical Exam:
Day of initial presentation:
Pelvic Exam: Grossly normal external female genitalia
BME:  Slightly enlarged fibroid uterus ___ wks siz, uterus is 
?mid-position (vs ?AV sl dev to R) with the dominant L post 
fibroid extending to LUS crowding post cul-de-sac (difficult to 
r/o RV uterus given post myoma).  There is also a bulge in R ant 
LUS (? AV UT sl dev to R vs ___ R ant IM fibroid).  In addition, 
there is a NT 1.5-2 cm firm nodule palpated along the L anterior 
vaginal fornix at 1:00 (DDX: vag wall nodule vs subserosal 
fibroid in lower pelvis). (note: This lesion is better palpated 
on BME than visualized on SSE).  Overall pelvic exam findings 
are benign, no rebound or guarding, no tenderness throughout.
SSE: Patulous cervix consistent with multiparity.  No unusual 
lesions, discharge, or bleeding.  Again, without BME, vaginal 
lesion is difficult to appreciate on visualization alone.
VAGINAL EXAM: There was no clinically significant prolapse
Musculoskeletal: No clubbing, cyanosis or edema. No cords 
bilaterally

Day of Discharge:
VS: T98.6, BP 99 / 61, HR 75, RR 18, 98% RA
NAD
Abd soft, NT, ND, port sites c/d/I with skin glue overlying
GU: foley in place, no perineal swelling, scant staining on pad
(replaced 4 hours ago)
Extr: no edema, SCD's in place
 
Pertinent Results:
___ 08:40AM   WBC-4.6 RBC-4.23 HGB-12.6 HCT-36.7 MCV-87 
MCH-29.8 MCHC-34.3 RDW-12.8 RDWSD-40.5
___ 08:40AM   PLT COUNT-204
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingectomies, excision of perineal skin and perineorraphy, 
suburethral sling, cystoscopy. Please see the operative report 
for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Dilaudid and Toradol. 
On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 0 mL with 350 mL residual.
Her Foley catheter was replaced and drained 400cc. She was 
instructed in care of foley catheter. Her diet was advanced 
without difficulty and she was transitioned to oral oxycodone, 
tylenol, and ibuprofen.

By the afternoon of post-operative day 1, she was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.
 
Medications on Admission:
clindamycin phosphate 1 % Gel
fluticasone 50 mcg/actuation spray,suspension (nasal)
ibuprofen 600 mg tablet (oral)
ketoconazole 2 % shampoo
oxycodone 5 mg tablet (oral)
tretinoin 0.05 % cream (topical)
 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY Duration: 
6 Days 
please take as directed until course completed 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
once a day Disp #*6 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroids
retroperitoneal fibrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incisions; no 
scrubbing of incisions. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ on 
___ for catheter removal. Please call his 
office with any questions.
 
Followup Instructions:
___